US06548506B2
1-(2,4-Difluorophenyl)-7-fluoro-8-[4-(4-fluorophenyl)piperazin-1-yl]-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid was prepared under the conditions of Example 1, but from 1.55 g of 7,8-difluoro-1-(2,4-difluorophenyl)-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid and 1.58 g of 4-(4-fluorophenyl)piperazine in 15 cm3 of dimethyl sulphoxide. After recrystallizing once from 55 cm3 of dimethylformamide, 1.4 g of 1-(2,4-difluorophenyl)-7-fluoro-8-[4-(4-fluorophenyl)piperazin-1-yl]-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid were obtained in the form of a yellow solid melting at about 322° C.

reactant | 7,8-difluoro-1-(2,4-difluorophenyl)-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.55 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C2=C(C=C(C=C2)F)F)C=C1F | C19H8F4N2O3
reactant | 4-(4-fluorophenyl)piperazine | 1.58 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
solvent | dimethyl sulphoxide | 15 cm3 | CS(=O)C | C2H6OS
product | 1-(2,4-difluorophenyl)-7-fluoro-8-[4-(4-fluorophenyl)piperazin-1-yl]-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.4 g | FC1=C(C=CC(=C1)F)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)N3CCN(CC3)C3=CC=C(C=C3)F)=O)C(=O)O | C29H20F4N4O3
